US07645753B2
3-Amino-5-ethoxy-4-iodo-benzoic acid methyl ester
To a solution of 3-amino-5-hydroxy-4-iodo-benzoic acid methyl ester (0.25 g, 0.85 mmol, 1.0 equiv) in DMF (3 mL) and ethyl iodide (0.10 mL, 0.146 g, 0.94 mmol, 1.1 equiv) at 0° C. was added sodium tert-butoxide (0.11 g, 0.94 mmol, 1.1 equiv) in small portions over a time period of 10 min. After stirring for 1 h, the cooling bath was removed and the the reaction mixture stirred at rt for an additional 18 h. The solution was concentrated by evaporation under reduced pressure and extracted with ethyl acetate (3×50 mL). The combined organic phases were dried over MgSO4, concentrated by evaporation under reduced pressure and the crude material purified with column chromatography on silica eluting with hexane/ethyl acetate (2:1) yielding 0.19 g (69%) of the title compound. 1H NMR (250 MHz, CDCl3): δ 1.49 (t, J=7.0 Hz, 3H), 3.89 (s, 3H), 4.11 (q, J=7.0 Hz, 2H), 4.33 (br s, 2H), 6.82 (d, J=2.7 Hz, 1H), 7.07 (d, J=2.7 Hz, 1H). MS (EI): 321.0 [M]+.

reactant | 3-amino-5-hydroxy-4-iodo-benzoic acid methyl ester | 0.85 mmol, 0.25 g, 1.0 equiv | COC(C1=CC(=C(C(=C1)O)I)N)=O | C8H8INO3
reactant | ethyl iodide | 0.94 mmol, 0.10 mL, 0.146 g, 1.1 equiv | C(C)I | C2H5I
reactant | sodium tert-butoxide | 0.94 mmol, 0.11 g, 1.1 equiv | CC(C)([O-])C.[Na+]
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 3-Amino-5-ethoxy-4-iodo-benzoic acid methyl ester | 0.19 g, 69% | COC(C1=CC(=C(C(=C1)OCC)I)N)=O | C10H12INO3
